US08530473B2
1.48 g of tert-butyl ester of 4-[5-(1,1-difluoro-6-aza-spiro[2.5]oct-6-yl)-pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid is put in 16 mL of dichloromethane. 24 mL of 4M hydrochloric acid in dioxane is added at +4° C. The solution is stirred at room temperature for 4 h and evaporated to dryness. The residue is taken up in a saturated solution of sodium hydrogen carbonate to basic pH. The solution is extracted twice with dichloromethane, washed with water, dried over magnesium sulfate, filtered and evaporated to dryness. 1.4 g of 1-[5-(1,1-difluoro-6-aza-spiro[2.5]oct-6-yl)-pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline is obtained.

reactant | 4-[5-(1,1-difluoro-6-aza-spiro[2.5]oct-6-yl)-pyridin-2-yl]-3,4-dihydro-2H-quinoxaline-1-carboxylic acid | FC1(CC12CCN(CC2)C=2C=CC(=NC2)N2CCN(C1=CC=CC=C21)C(=O)O)F | C21H22F2N4O2
reactant | hydrochloric acid | 4M, 24 mL | Cl | ClH
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-[5-(1,1-difluoro-6-aza-spiro[2.5]oct-6-yl)-pyridin-2-yl]-1,2,3,4-tetrahydroquinoxaline | 1.4 g | FC1(CC12CCN(CC2)C=2C=CC(=NC2)N2CCNC1=CC=CC=C21)F | C20H22F2N4
